US08084484B2
g) 2-(4-Amino-3-hydroxy-phenyl)-propionic acid
To a stirred solution of 2-(3-hydroxy-4-nitro-phenyl)-propionic acid (1.28 g) in THF (20 mL) and EtOH (20 mL) was slowly added 10% Pd/C (0.12 g) at room temperature. After being hydrogenated for 3 h with H2 balloon, the reaction mixture was filtered through celite pad and washed with EtOH. The filtrate was concentrated in vacuo to afford the product as yellow solid. (1.08 g, 98.4%)

reactant | 2-(3-hydroxy-4-nitro-phenyl)-propionic acid | 1.28 g | OC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)O)C | C9H9NO5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 0.12 g | [Pd] | Pd
product | 2-(4-Amino-3-hydroxy-phenyl)-propionic acid | NC1=C(C=C(C=C1)C(C(=O)O)C)O | C9H11NO3
